US06846933B1
2-(2,6-Difluorophenyl)-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline
The title compound was prepared from the isonicotinoylhydrazone of 2,6-difluorobenzaldehyde and acetic anhydride, using the General Structural Outline for Oxadiazoline Synthesis in 31% yield, mp 119-121° C.; IR ν 1673, 1624, 1594, 1554, 1334, 1312, 1295, 1209, 1092, 1062, 1008, 988, 974, 886, 825, 790, 730, 703, 663, 632 cm−1; NMR (300 Mhz) δ 8.75 (2H, □□br d, J=6 cps), 7.75 (2H, d, J=6 cps), 7.65-7.15 (4H, m from which emerges singlet at 7.5), 2.2 (3H, s).

reactant | isonicotinoylhydrazone of 2,6-difluorobenzaldehyde | C1=CC(=C(C(=C1)F)/C=N/NC(=O)C2=CC=NC=C2)F | C13H9F2N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Oxadiazoline | C1NN=CO1 | C2H4N2O
product | 2-(2,6-Difluorophenyl)-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline | 31% yield | FC1=C(C(=CC=C1)F)C1OC(=NN1C(C)=O)C1=CC=NC=C1 | C15H11F2N3O2
